US06358972B1
5-Methoxy-3-(1-Methyl-1,2,3,6-Tetrahydropyridin-4-yl)indole
To a mixture of 5-methoxy-4-aza-1H-indole(7.0 g, 47 mmol) and potassium hydroxide (9.2 g, 165 mmol) in 350 mL of methanol was added 1-methyl-4-piperidone (9.86 mL, 80 mmol) in one portion. The reaction was heated at reflux temperature overnight, and cooled to room temperature. The resulting precipitate was collected, and the filtrate was concentrated to a minimal volume. A second crop of crystals was collected, washed with cold methanol, and combined with the previous crop to afford 9.0 g (79%) of the title compound. MS(m/e): 243 (M+). EA calculated for C14H17N3O: C, 69.11; H, 7.04; N, 17.27. Found: C, 69.22; H, 7.13; N, 17.47.

reactant | 5-methoxy-4-aza-1H-indole | 47 mmol, 7.0 g | COC=1N=C2C=CNC2=CC1 | C8H8N2O
reactant | potassium hydroxide | 165 mmol, 9.2 g | [OH-].[K+]
reactant | 1-methyl-4-piperidone | 80 mmol, 9.86 mL | CN1CCC(CC1)=O | C6H11NO
reactant | methanol | 350 mL | CO | CH4O
product | 5-Methoxy-3-(1-Methyl-1,2,3,6-Tetrahydropyridin-4-yl)indole | 9.0 g, 79% | COC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C15H18N2O
